US07148226B2
Preparation of compound 2-Ethyl-6-fluoro-phenol
A mixture of 2-fluoro-6-(1-hydroxy-ethyl)-phenol (1.7 g, 10.9 mmol) and 10 wt % Pd/C (0.85 g, Degussa type) in MeOH (30 mL) was stirred under a balloon of H2 for 6 hours. The reaction mixture was filtered through a pad of celite washing with EtOAc. The filtrate was concentrated to a yellow oil (1.35 g, 87%). 1H NMR (400 MHz, CDCl3): δ 1.22 (t, J=7.6 Hz, 3 H), 2.68 (q, J=7.3 Hz, 2 H), 5.12 (s, 1 H), 6.76 (m, 1 H), 6.92 (m, 2 H).

reactant | 2-fluoro-6-(1-hydroxy-ethyl)-phenol | 10.9 mmol, 1.7 g | FC1=C(C(=CC=C1)C(C)O)O | C8H9FO2
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 0.85 g | [Pd] | Pd
product | 2-Ethyl-6-fluoro-phenol | C(C)C1=C(C(=CC=C1)F)O | C8H9FO
